US06162818
A degassed suspension of 7-methyl-6-nitroindole (1.5 g, 8.5 mmol) and catalytic 10% palladium on carbon in ethanol (75 mL) is placed under an atmosphere of hydrogen at 50 p.s.i. for 7 hours. The reaction mixture is filtered through Celite and the mixture concentrated by rotary evaporation. The crude residue is purified via silica gel column chromatography using 20% isopropanol/hexanes as the eluting solvent. The product containing fractions are combined and the solvents removed by rotary evaporation to yield 0.95 g of 6-amino-7-methylindole as a light brown solid (76% yield).

reactant | 7-methyl-6-nitroindole | 8.5 mmol, 1.5 g | CC=1C(=CC=C2C=CNC12)[N+](=O)[O-] | C9H8N2O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 6-amino-7-methylindole | 0.95 g, 76% yield | NC1=CC=C2C=CNC2=C1C | C9H10N2
